US05002963
Preparation of N,N-dimethyl 3-indolepyruvamide.
A solution of 500 mg 3-indolepyruvic acid in 25 ml anhydrous tetrahydrofuran on an ice-salt bath, under argon atmosphere and under stirring was additioned in swift succession with: 400 mg hydroxybenzotriazole (HOBt) and 570 mg 1-(3-dimethylaminopropyl)-3-ethylcarbimdie.HCl (EDC.HCl). After dissolving and still maintaining the ice-salt bath, 240 mg dimethylamine.HCl were added dissolved in 10 ml anhydrous tetrahydrofuran and 325 microliters 4-methylmorpholine (NMM). The yellowish gold solution was maintained under stirring for one night, leaving the bath temperature to rise up to room temperature. The volume was then tripled adding CH2Cl2 and the organic solution was washed in sequence with 5% NaHCO3 (10×25 ml), saturated NaCl solution (3×25 ml), 5% KHSO4 (10×25 ml) and saturated NaCl solution up to neutrality. After standing for one night on anhydrous Na2SO4, this was filtered off, the mixture was purified by flash chromatography (silica gel, eluent CH2Cl2 25/n-propanol 1,5).

reactant | 3-indolepyruvic acid | 500 mg | N1C=C(C2=CC=CC=C12)CC(C(=O)O)=O | C11H9NO3
reactant | hydroxybenzotriazole | 400 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | HCl | Cl | ClH
reactant | dimethylamine | 240 mg | CNC | C2H7N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | 4-methylmorpholine | 325 microliters | CN1CCOCC1 | C5H11NO
catalyst | gold | [Au] | Au
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl 3-indolepyruvamide | CN(C(C(=O)CC1=CNC2=CC=CC=C12)=O)C | C13H14N2O2
